US06335360B1
1-(N-t-Butoxycarbonyl-2(S)-aminobutyryl)-5-trifluoromethoxyindoline-2(R/S)-carboxylic acid methyl ester
To a solution of 5-trifluoromethoxyindoline-2(R/S)-carboxylic acid methyl ester (1.95 g, 7.47 mmol) and N-t-butoxycarbonyl-2(S)-aminobutyric acid (1.52 g, 7.47 mmol) dissolved in dried dichloromethane (15 ml) under nitrogen at 10° C., was added diisopropylcarbodiimide (1.00 ml, 7.96 mmol). The mixture was stirred at room temperature for 24 hours, then filtered. The filtrate was evaporated under vacuum to afford a brown oil which was purified by column chromatography on silica gel first by using 95:5 dichloromethane: diethyl ether as eluent, then another column on silica gel by using 7:3 petroleum spirit: diethyl ether. A yellow foam was obtained which was the mixture of two diastereomers.

reactant | 5-trifluoromethoxyindoline-2(R/S)-carboxylic acid methyl ester | 7.47 mmol, 1.95 g | COC(=O)C1NC2=CC=C(C=C2C1)OC(F)(F)F | C11H10F3NO3
reactant | N-t-butoxycarbonyl-2(S)-aminobutyric acid | 7.47 mmol, 1.52 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC | C9H17NO4
reactant | diisopropylcarbodiimide | 7.96 mmol, 1.00 ml | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 1-(N-t-Butoxycarbonyl-2(S)-aminobutyryl)-5-trifluoromethoxyindoline-2(R/S)-carboxylic acid methyl ester | COC(=O)C1N(C2=CC=C(C=C2C1)OC(F)(F)F)C([C@H](CC)NC(=O)OC(C)(C)C)=O | C20H25F3N2O6
